US09302988B2
Step 4: 1-Benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid
Ethyl 1-benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate (5.0 g, 14.83 mmol) was added to a solution of 8M NaOH (30 mL) and catalytic amount of TBAF (0.5 mL) at 0° C. The resulting mixture was stirred at 110° C. for 24 h. The reaction mixture was cooled to 0° C., acidified (pH-2) with 6N HCl and extracted with EtOAc (3×50 mL). The combined organic layers were washed with brine (100 mL), dried (Na2SO4) and concentrated to afford the desired product (3.8 g, 84%) as a brown solid.

reactant | Ethyl 1-benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylate | 14.83 mmol, 5.0 g | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)F)C(=O)OCC | C21H20FNO2
reactant | TBAF | 0.5 mL | CCCC[N+](CCCC)(CCCC)CCCC.[F-]
reactant | HCl | 6N | Cl | ClH
solvent | NaOH | 8M, 30 mL | [OH-].[Na+]
product | 1-Benzyl-3-(4-fluorophenyl)-4-methyl-1H-pyrrole-2-carboxylic acid | 3.8 g, 84% | C(C1=CC=CC=C1)N1C(=C(C(=C1)C)C1=CC=C(C=C1)F)C(=O)O | C19H16FNO2
